US06872720B2
c) 5-Acetyl-4-tert-butyl-3-(4-methylphenyl)sulfonyloxypyrazole
4-tert-Butyl-5-(1-hydroxyethyl)-3-(4-methylphenyl)sulfonyloxypyrazole (3.8 g, 11.3 mmol) was dissolved in dichloromethane (100 ml) and PDC (4.26 g, 11.3 mmol) was added After stirring at ambient temperature for 2 h, the reaction mixture was poured directly onto a silica gel column and eluted with dichloromethane then 20% ethyl acetate/dichloromethane to give the required product (2.71 g) as a white solid. 1H NMR (360 MHz, CDCl3) δ 1.26 (9H, s), 2.46 (3H, s), 2.56 (3H, s), 7.36 (2H, d, J=8.2 Hz), 7.82 (2H, d, J=8.2 Hz), 10.70 (1H, br s); MS (ES+) m/e 337 [MH]+.

reactant | 4-tert-Butyl-5-(1-hydroxyethyl)-3-(4-methylphenyl)sulfonyloxypyrazole | 11.3 mmol, 3.8 g | C(C)(C)(C)C=1C(=NNC1C(C)O)OS(=O)(=O)C1=CC=C(C=C1)C | C16H22N2O4S
reactant | PDC | 11.3 mmol, 4.26 g | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-Acetyl-4-tert-butyl-3-(4-methylphenyl)sulfonyloxypyrazole | 2.71 g | C(C)(=O)C1=C(C(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C16H20N2O4S
